US07291631B2
COMPOUND 377: N-{3-[(3,5-Dimethyl-pyridin-2-yl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-propyl}-N-hydroxyurea (HBr salt)
N-{3-[(3,5-Dimethyl-pyridin-2-yl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-propyl}-hydroxylamine (HBr salt) (138 mg, 0.22 mmol) was dissolved in H2O (2 mL) and treated with sodium cyanate (42 mg, 0.65 mmol) for 3.5 hours. 15% aqueous NaOH solution (0.1 mL) was added and the aqueous was extracted with CH2Cl2 (3×5 mL). The combined organics were then dried (Na2SO4) and concentrated under reduced pressure to afford, after radial chromatographic purification on a silica gel plate (3% NH4OH/CH3CN)N-{3-[(3,5-dimethyl-pyridin-2-yl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-propyl}-N-hydroxyurea (42 mg, 50%).

reactant | N-{3-[(3,5-Dimethyl-pyridin-2-yl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-propyl}-hydroxylamine | 0.22 mmol, 138 mg | CC=1C(=NC=C(C1)C)N(CCCNO)C1CCCC=2C=CC=NC12 | C19H26N4O
reactant | sodium cyanate | 0.65 mmol, 42 mg | [O-]C#N.[Na+]
reactant | NaOH | 0.1 mL | [OH-].[Na+]
solvent | H2O | 2 mL | O | H2O
product | N-{3-[(3,5-Dimethyl-pyridin-2-yl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-propyl}-N-hydroxyurea | CC=1C(=NC=C(C1)C)N(CCCN(C(=O)N)O)C1CCCC=2C=CC=NC12 | C20H27N5O2
